US04800208
(5-bromobenzofuran-2-yl)(p-chlorophenyl)methylchloride
To 36.2 g of (5-bromobenzofuran-2-yl)(p-chlorophenyl)methanol dissolved in 50 ml of methylenchloride, 8.5 ml of thionylchloride in 25 ml of cyclohexane are added drop by drop, under agitation. After a 4 hour rest at 10° C., the solution is brought to dryness under vacuum condition. The residue is crystallized from petroleum ether: m.p. 83°-85° C.

reactant | (5-bromobenzofuran-2-yl)(p-chlorophenyl)methanol | 36.2 g | BrC=1C=CC2=C(C=C(O2)C(O)C2=CC=C(C=C2)Cl)C1 | C15H10BrClO2
reactant | thionylchloride | 8.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylenchloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | 25 ml | C1CCCCC1 | C6H12
product | (5-bromobenzofuran-2-yl)(p-chlorophenyl)methylchloride | BrC=1C=CC2=C(C=C(O2)C(C2=CC=C(C=C2)Cl)Cl)C1 | C15H9BrCl2O
